US05891909
c) 3-[3-(5-Chloro-1,3-dimethylpyrazole-4-sulfonyloxy)-5-methylphenoxy]propionaldehyde
To 227 mg (0.660 mmol) of 3-[3-(5-chloro-1,3-dimethyl-pyrazole-4-sulfonyloxy)-5-methylphenoxy]propanol, as prepared in the preceding step, in dichloromethane (2 mL) containing 61 μL (0.79 mmol) of anhydrous dimethyl sulfoxide and 275 μL (1.58 mmol) of N,N-diisopropylethylamine was added 124 mg (0.78 mmol) of sulfur trioxide pyridine complex. The reaction mixture was stirred at ambient temperature for 60 min and then purified by flash chromatography (dichloromethane then 20% ethyl acetate/dichloromethane) to give 75 mg of the title compound as an unstable oil. TLC clearly showed 3-(5-chloro-1,3-dimethylpyrazole-4-sulfonyloxy)-5-methylphenol as the major byproduct. 1H-NMR (300 MHz, CDCl3) δ 9.85 (t, 1H, J=1.5 Hz), 6.64 (s, 1H), 6.51-6.57 (m, 2H), 6.46 (t, 1H, J=2 Hz), 6.42 (t, 1H, J=2 Hz), 4.23 (t, 2H, J=6 Hz), 3.82 (s, 3H), 2.89 (td, 2H, J=1, 6 Hz), 2.29 (s, 3H), 2.26 (s, 3H).

reactant | 3-[3-(5-chloro-1,3-dimethyl-pyrazole-4-sulfonyloxy)-5-methylphenoxy]propanol | 0.660 mmol, 227 mg | ClC1=C(C(=NN1C)C)S(=O)(=O)OC=1C=C(OCCCO)C=C(C1)C | C15H19ClN2O5S
reactant | dimethyl sulfoxide | 0.79 mmol, 61 μL | CS(=O)C | C2H6OS
reactant | N,N-diisopropylethylamine | 1.58 mmol, 275 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 3-[3-(5-Chloro-1,3-dimethylpyrazole-4-sulfonyloxy)-5-methylphenoxy]propionaldehyde | 75 mg | ClC1=C(C(=NN1C)C)S(=O)(=O)OC=1C=C(OCCC=O)C=C(C1)C | C15H17ClN2O5S
